US09259470B2
0.5M (3-Chloro-4-fluorophenyl)magnesium bromide in THF (27.4 mL, 13.7 mmol) was added dropwise to 2-(tert-butyldimethylsilyloxy)-N-methoxy-N-methylacetamide (2.00 g, 8.57 mmol) in THF (20 mL) cooled in ice. The mixture became turbid after about half of the Grignard reagent was added. This was stirred in an ice bath for 2 hours, quenched with saturated aqueous NH4Cl, and concentrated to remove the THF. The aqueous residue was extracted with 2 portions DCM. The combined DCM layers were dried over MgSO4, filtered, and evaporated to yield a crude product (3.62 g) as an oil. This was taken up in hexane and purified on a silica gel plug with hexane until product started eluting, then 15:1 hexane/EtOAc. Product-containing fractions yielded 2-(tert-butyldimethylsilyloxy)-1-(3-chloro-4-fluorophenyl)ethanone (2.28 g, 7.53 mmol, 87.9% yield) as an oil.

reactant | (3-Chloro-4-fluorophenyl)magnesium bromide | 0.5M | ClC=1C=C(C=CC1F)[Mg]Br
reactant | 2-(tert-butyldimethylsilyloxy)-N-methoxy-N-methylacetamide | 8.57 mmol, 2.00 g | [Si](C)(C)(C(C)(C)C)OCC(=O)N(C)OC | C10H23NO3Si
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | THF | 13.7 mmol, 27.4 mL | C1CCOC1 | C4H8O
product | 2-(tert-butyldimethylsilyloxy)-1-(3-chloro-4-fluorophenyl)ethanone | 7.53 mmol, 2.28 g, 87.9% yield | [Si](C)(C)(C(C)(C)C)OCC(=O)C1=CC(=C(C=C1)F)Cl | C14H20ClFO2Si
